US07018988B2
(2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(methoxyacetyl)-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, methoxyacetyl chloride, and 1-naphthylmethylamine the title compound was obtained in 91% purity by LC/MS. MS(ESI+): m/z=514.8.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(methoxyacetyl)-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide | ClC=1C=C(CON=C2C[C@H](N(C2)C(COC)=O)C(=O)NCC2=CC=CC3=CC=CC=C23)C=CC1Cl | C26H25Cl2N3O4
